US05173408
Purification of Human Pancreatic Cholesterol Esterase
Human pancreas was received at autopsy. About 30 g of tissue in 10 mM phosphate, pH 6.0, 50 mM benzamidine, 0.5% digitonin were homogenized with a polytron, centrifugally pelleted (48,000× g, 30 min.) and the supernatant collected. The supernatant was centrifugally pelleted (100,000× g, 60 min.) again and the second supernatant was passed through glass wool and dialized overnight against 50 mM benzamidine, 10 mM phosphate, pH 6.8. The dialysate was loaded onto a hydroxylapatite column (2.6×10 cm) equilibrated with 50 mM benzamidine, 10 mM phosphate, pH 6.8. The column was washed with identical buffer, then developed with a linear gradient of 50 mM to 350 mM phosphate, pH 6.8, 50 mM benzamidine. The cholesterol esterase activity eluted at a conductivity of 20-22 mS/cm. These fractions were pooled and loaded onto an AcA34 column (Bio-Rad Laboratories, Inc., 2200 Wright Avenue, Richmond, Calif. 94804) (2.6×90 cm) equilibrated with 500 mM NaCl, 10 mM phosphate, pH 6.0. The fraction emerging at an apparent molecular weight of 350 kDa contained cholesterol esterase activity and was dialyzed against 10 mM phosphate, pH 6.0.

reactant | benzamidine | 50 mM, pH 6.0 | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | digitonin | C[C@@H]1CC[C@@]2([C@H]([C@H]3[C@@H](O2)[C@H]([C@@H]4[C@@]3(CC[C@H]5[C@H]4CC[C@@H]6[C@@]5(C[C@H]([C@@H](C6)O[C@H]7[C@@H]([C@H]([C@H]([C@H](O7)CO)O[C@H]8[C@@H]([C@H](C([C@H](O8)CO)O)O[C@H]9[C@@H]([C@H]([C@@H](CO9)O)O)O)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O)C)C)O)C)OC1 | C56H92O29
solvent | phosphate | 10 mM | P(=O)([O-])([O-])[O-]
product | Cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
